US07390903B2
To a stirred solution of 30 mg (0.13 mmol) (2-amino-5-chloro-thiophen-3-yl)-phenyl-methanone in 2 ml acetic acid was added 0.016 ml (0.13 mmol) of 1,1,1-trifluoro-pentane-2,4-dione and one drop of sulfuric acid. The mixture was then stirred at 70° C. for 10 minutes in a microwave and then concentrated in vacuo. Preparative HPLC (30% CE-CN/H20) afforded 10 mg (23%) 1-(2-chloro-6-methyl-4-phenyl-thieno[2,3-b]pyridin-5-yl)-2,2,2-trifluoro-ethanone as a light brown solid. ES-MS m/e (%): 356 (M+H+, 100).

reactant | (2-amino-5-chloro-thiophen-3-yl)-phenyl-methanone | 0.13 mmol, 30 mg | NC=1SC(=CC1C(=O)C1=CC=CC=C1)Cl | C11H8ClNOS
reactant | 1,1,1-trifluoro-pentane-2,4-dione | 0.13 mmol, 0.016 ml | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | 1-(2-chloro-6-methyl-4-phenyl-thieno[2,3-b]pyridin-5-yl)-2,2,2-trifluoro-ethanone | 10 mg, 23% | ClC1=CC=2C(=NC(=C(C2C2=CC=CC=C2)C(C(F)(F)F)=O)C)S1 | C16H9ClF3NOS
